US08541588B2
N-(2,4-Dimethoxybenzyl)-1,3,4-thiadiazol-2-amine
To a solution of 2-amino-1,3,4-thiadiazole (3.05 g, 0.0302 mol) and 2,4-dimethoxy-benzaldehyde (4.55 g, 0.0274 mol) in dichloromethane (125 mL) was added chlorotriisopropoxytitanium (16 mL, 0.067 mol) portionwise over 5 minutes. After stirring for 1 hour, sodium triacetoxyborohydride (11.72 g, 0.05530 mol) was added portion wise and stirred for 24 hours. The reaction was quenched with saturated aqueous sodium bicarbonate solution and adjusted to pH 9 with sodium hydroxide (6 N aqueous solution) and extracted with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash column chromatography eluting with methanol:dichloromethane (gradient 0:1 to 1:9, by volume) to afford the title compound as a white solid, 590 mg, 45% yield.

reactant | 2-amino-1,3,4-thiadiazole | 0.0302 mol, 3.05 g | NC=1SC=NN1 | C2H3N3S
reactant | 2,4-dimethoxy-benzaldehyde | 0.0274 mol, 4.55 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | sodium triacetoxyborohydride | 0.05530 mol, 11.72 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
catalyst | chlorotriisopropoxytitanium | 0.067 mol, 16 mL | Cl[Ti](OC(C)C)(OC(C)C)OC(C)C
product | N-(2,4-Dimethoxybenzyl)-1,3,4-thiadiazol-2-amine | 45% yield | COC1=C(CNC=2SC=NN2)C=CC(=C1)OC | C11H13N3O2S
